US07153635B1
Preparation of Tetraethylammonium 2,3-Dihydroxybenzoate:
To 20 g of water and 3.08 g of 2,3-dihydroxybenzoic acid (20 mmole) at 20° C. was added a 35 weight % solution of tetraethylammonium hydroxide to adjust the pH to 7.9 (8.1 g required, ˜20 mmole). The resulting solution was freeze dried to yield a tan colored free-flowing powder.

reactant | 2,3-dihydroxybenzoic acid | 20 mmole, 3.08 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | tetraethylammonium hydroxide | [OH-].C(C)[N+](CC)(CC)CC
solvent | water | 20 g | O | H2O
product | Tetraethylammonium 2,3-Dihydroxybenzoate | OC1=C(C(=O)[O-])C=CC=C1O.C(C)[N+](CC)(CC)CC | InChI=1S/C8H20N.C7H6O4/c1-5-9(6-2,7-3)8-4;8-5-3-1-2-4(6(5)9)7(10)11/h5-8H2,1-4H3;1-3,8-9H,(H,10,11)/q+1;/p-1
